US08835470B2
(R/S)-3-(2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid (Int-V, 25 mg, 0.050 mmol), methyl azetidine-3-carboxylate-HCl (7.54 mg, 0.050 mmol), 4-methylmorpholine (20.13 mg, 0.199 mmol), and HATU (24.60 mg, 0.065 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 acetonitrile:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 acetonitrile:water with 10-mM ammonium acetate; Gradient: 25-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow: 20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-methyl 1-(3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoyl)azetidine-3-carboxylate (11.9 mg, 0.020 mmol, 39.9% yield): LCMS=600.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.14-8.26 (2 H, m), 7.54-7.77 (7 H, m), 5.12 (1 H, s), 4.00-4.34 (4 H, m), 3.73 (3 H, d, J=5.27 Hz), 3.39-3.56 (3 H, m), 2.36 (2 H, q, J=6.44 Hz); HPLC peak RT=2.5 min (Method E).

reactant | (R/S)-3-(2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid | 0.050 mmol, 25 mg | OC(C(=O)NCCC(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C23H17F3N4O6
reactant | methyl azetidine-3-carboxylate-HCl | 0.050 mmol, 7.54 mg | Cl.N1CC(C1)C(=O)OC
reactant | 4-methylmorpholine | 0.199 mmol, 20.13 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.065 mmol, 24.60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-methyl 1-(3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoyl)azetidine-3-carboxylate | 0.020 mmol, 11.9 mg, 39.9% yield | OC(C(=O)NCCC(=O)N1CC(C1)C(=O)OC)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C28H24F3N5O7
